US07456283B2
Preparation of 4-(4-methyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide
A suspension of N-(3-guanidino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide (30 g, 79 mmol) in n-butanol (150 ml) at 120° C. under an atmosphere of nitrogen is treated with 3-dimethylamino-1-pyridin-3-yl-propenone (15.3 g, 87 mmol). The resulting suspension is heated at 150° C. for 5 hrs. The reaction mixtures becomes a homogeneous deep orange solution and dimethylamine is removed by the distillation of n-butanol (130 ml). n-Butanol (20 ml) is added during the distillation. Butyl acetate (60 ml) is added dropwise at 100° C. and the solution is cooled to 0° C. within 1 hr and stirred at 0° C. for 16 hrs. The resulting deep orange suspension is filtered off with suction, the isolated solid is washed with n-butanol (2×50 ml) and water (2×50 ml) and dried in vacuo at 60° C. Yield: 36.4 g of the title compound, 93% based on theory, as off-whitecrystals. (99.6% area by HPLC).

reactant | N-(3-guanidino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | 79 mmol, 30 g | N(C(=N)N)C=1C=C(C=CC1C)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C21H28N6O
reactant | dimethylamine | CNC | C2H7N
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 4-(4-methyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide | CN1CCN(CC1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C29H31N7O
